US08022206B2
7-[(R)-1-(2,6-Dichloro-3-fluorophenyl)ethoxy]-3-(1,2,5,6-tetrahydropyridin-3-yl)-furo[3,2-c]pyridin-6-ylamine
The title compound was prepared according to General procedure A with starting materials 3-Bromo-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]furo[3,2-c]pyridin-6-ylamine and 5-(4,4,5,5-Tetramethyl[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester. MS (ES+): m/z 422.05 (MH+, 35Cl, 37Cl), 424.06 (MH+, 37Cl, 37Cl).

reactant | 3-Bromo-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]furo[3,2-c]pyridin-6-ylamine | BrC1=COC2=C1C=NC(=C2O[C@H](C)C2=C(C(=CC=C2Cl)F)Cl)N | C15H10BrCl2FN2O2
reactant | 5-(4,4,5,5-Tetramethyl[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC=C(C1)B1OC(C(O1)(C)C)(C)C | C16H28BNO4
product | 7-[(R)-1-(2,6-Dichloro-3-fluorophenyl)ethoxy]-3-(1,2,5,6-tetrahydropyridin-3-yl)-furo[3,2-c]pyridin-6-ylamine | ClC1=C(C(=CC=C1F)Cl)[C@@H](C)OC=1C2=C(C=NC1N)C(=CO2)C=2CNCCC2 | C20H18Cl2FN3O2
